US07498346B2
To a solution of (R)-N-[1-(2-cyano-1-methyl-ethyl)-piperidin-4-yl]-4-methyl-N-(6-trifluoromethyl-pyridin-3-yl)-nicotinamide (0.62 g, 1.44 mmol) in THF (25 mL) was added a solution of borane-THF in THF (1.0 M, 8.62 mL, 8.62 mmol) and the reaction was refluxed for 16 h. The reaction was cooled and carefully quenched with 9N HCl (14 mL) and heated to 65° C. for 2 h. The mixture was cooled and concentrated to remove the THF. The remaining aqueous solution was neutralized to pH>13 with 10N NaOH and diluted with CH2Cl2 (50 mL). The two phases were separated and the aqueous layer was extracted with CH2Cl2 (4×50 mL). The combined organic extracts were dried (Na2SO4) and purified by column chromatography on silica gel (92:7:1, CH2Cl2/MeOH/NH4OH) to afford [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-methyl-pyridin-3-ylmethyl)-(6-trifluoromethyl-pyridin-3-yl)-amine as a pale yellow oil (0.355 g, 58%). 1H-NMR (CDCl3) δ 0.98 (d, 3H, J=7 Hz), 1.41 (m, 2H), 1.51 (m, 2H), 1.68 (m, 4H), 1.91 (m, 2H), 2.72 (dt, 1H, J=2 Hz, 12 Hz), 2.35 (s, 3H), 2.51 (dt, 1H, J=2 Hz, 11 Hz), 2.72 (m, 3H), 2.86 (m, 2H), 3.84 (m, 1H), 4.46 (s, 2H), 6.90 (dd, 1H, J=3 Hz, 9 Hz), 7.11 (d, 1H, J=5 Hz), 7.42 (d, 1H, J=9 Hz), 8.08 (d, 1H, J=3 Hz), 8.24 (s, 1H), 8.39 (d, 1H, J=5 Hz).

reactant | (R)-N-[1-(2-cyano-1-methyl-ethyl)-piperidin-4-yl]-4-methyl-N-(6-trifluoromethyl-pyridin-3-yl)-nicotinamide | 1.44 mmol, 0.62 g | C(#N)C[C@@H](C)N1CCC(CC1)N(C(C1=CN=CC=C1C)=O)C=1C=NC(=CC1)C(F)(F)F | C22H24F3N5O
reactant | borane THF | B.C1CCOC1
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 8.62 mmol, 1.0 M, 8.62 mL | C1CCOC1 | C4H8O
product | [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-methyl-pyridin-3-ylmethyl)-(6-trifluoromethyl-pyridin-3-yl)-amine | 0.355 g, 58% | NCC[C@@H](C)N1CCC(CC1)N(C=1C=NC(=CC1)C(F)(F)F)CC=1C=NC=CC1C | C22H30F3N5
